US07989449B2
(3-Bromo-5-ethoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanone
A solution of 4-bromo-2-methylanisole (0.984 g, 4.9 mmol) in tetrahydrofuran (3 mL) was added dropwise to magnesium powder (0.127 g, 5.2 mmol) in tetrahydrofuran (1 mL) at room temperature. Under external heating the reaction mixture was brought up to reflux. After complete addition, reflux was maintained for 1 hour. Thereafter the mixture was cooled to 15° C., then diluted with tetrahydrofuran (1 mL) before a solution of 3-bromo-5-ethoxy-N-methoxy-N-methyl-benzamide (1.238 g, 4.3 mmol) in tetrahydrofuran (3 mL) was added dropwise. After complete addition, the mixture was heated to reflux for 1.5 hours. For the working-up, it was cooled to 5° C. and hydrolysed with a saturated solution of ammonium chloride (25 mL). The aqueous layer was extracted twice with ethyl acetate (2×50 mL), thereupon, the organic layers combined, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The crude product was chromatographed on silica gel using a gradient of heptane/ethyl acetate=100/0 to 6/1 as the eluent. There were obtained 1.16 g (77% of theory) of the title compound as a colourless oil. Mass (calculated) C17H17BrO3 [348]; (found) [M+H]+=349, 351.

reactant | 4-bromo-2-methylanisole | 4.9 mmol, 0.984 g | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
reactant | magnesium | 5.2 mmol, 0.127 g | [Mg] | Mg
reactant | 3-bromo-5-ethoxy-N-methoxy-N-methyl-benzamide | 4.3 mmol, 1.238 g | BrC=1C=C(C(=O)N(C)OC)C=C(C1)OCC | C11H14BrNO3
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (3-Bromo-5-ethoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanone | BrC=1C=C(C=C(C1)OCC)C(=O)C1=CC(=C(C=C1)OC)C | C17H17BrO3
